### PR TITLE
[Merged by Bors] - feat: port Analysis.InnerProductSpace.TwoDim

### PR DESCRIPTION
**Pull request by urkud**
---

I assume that @Parcly-Taxel took over this PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Parcly-Taxel** [comment]
Is this ready for review?

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 1]
```diff
@@ -0,0 +1,676 @@
...
+  interpretations on `ℂ`
+
+## Implementation notes
+
+Notation `ω` for `Orientation.areaForm` and `J` for `Orientation.rightAngleRotation` should be
+defined locally in each file which uses them, since otherwise one would need a more cumbersome
+notation which mentions the orientation explicitly (something like `ω[o]`).  Write
+
+```
+local notation `ω` := o.areaForm
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:67]: Are these the right commands in lean 4?

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 2]
```diff
@@ -0,0 +1,676 @@
...
+-/
+
+
+noncomputable section
+
+open scoped RealInnerProductSpace ComplexConjugate
+
+open FiniteDimensional
+
+lemma FiniteDimensional.fact_finiteDimensional_of_finrank_eq_two {K V : Type _} [DivisionRing K]
```
Comment (alexjbest) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:80]: Name seems garbled, fact should be after of?

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean]: Done and done.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean]: Done and done.

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 3]
```diff
@@ -0,0 +1,676 @@
...
+
+theorem nonneg_inner_and_areaForm_eq_zero_iff_sameRay (x y : E) :
+    0 ≤ ⟪x, y⟫ ∧ ω x y = 0 ↔ SameRay ℝ x y := by
+  by_cases hx : x = 0
+  · simp [hx]
+  constructor
+  · let a : ℝ := (o.basisRightAngleRotation x hx).repr y 0
+    let b : ℝ := (o.basisRightAngleRotation x hx).repr y 1
+    suffices 0 ≤ a * ‖x‖ ^ 2 ∧ b * ‖x‖ ^ 2 = 0 → SameRay ℝ x (a • x + b • J x) by
+      -- Porting note: `simp only` rewritten as `rw`
```
Comment (semorrison) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:452]: Could you say why? We're eventually going to have to go back over all of these, so breadcrumbs are helpful!

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 4]
```diff
@@ -0,0 +1,676 @@
...
+end Orientation
+
+namespace Complex
+
+attribute [local instance] Complex.finrank_real_complex_fact
+
+@[simp]
+protected theorem areaForm (w z : ℂ) : Complex.orientation.areaForm w z = (conj w * z).im := by
+  let o := Complex.orientation
+  -- Porting note: split `simp only` for greater proof control
```
Comment (semorrison) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:611]: Could you say why? Is there a `simp` regression here?

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 5]
```diff
@@ -0,0 +1,676 @@
...
+
+namespace Orientation
+
+local notation "ω" => o.areaForm
+
+local notation "J" => o.rightAngleRotation
+
+open Complex
+
+attribute [local instance] finrank_real_complex_fact -- Porting note: this instance is needed
```
Comment (semorrison) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:647]: Was it not here in mathlib3? What has changed?

Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean:647]: It wasn't in mathlib3, but without this in mathlib4 the three following theorems have the error
```
failed to synthesize instance
  Fact (finrank ℝ ℂ = 2)
```

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean:611]: The original proof was
```lean
protected theorem areaForm (w z : ℂ) : Complex.orientation.areaForm w z = (conj w * z).im := by
  let o := Complex.orientation
  simp only [o.areaForm_to_volumeForm, o.volumeForm_robust Complex.orthonormalBasisOneI rfl,
    Basis.det_apply, Matrix.det_fin_two, Basis.toMatrix_apply, toBasis_orthonormalBasisOneI,
    Matrix.cons_val_zero, coe_basisOneI_repr, Matrix.cons_val_one, Matrix.head_cons, mul_im,
    conj_re, conj_im]
  ring
```
which does not work, even after #4933. However putting brackets around two of the items in the `simp only` list makes it work:
```lean
protected theorem areaForm (w z : ℂ) : Complex.orientation.areaForm w z = (conj w * z).im := by
  let o := Complex.orientation
  simp only [o.areaForm_to_volumeForm, o.volumeForm_robust Complex.orthonormalBasisOneI rfl,
    (Basis.det_apply), Matrix.det_fin_two, (Basis.toMatrix_apply), toBasis_orthonormalBasisOneI,
    Matrix.cons_val_zero, coe_basisOneI_repr, Matrix.cons_val_one, Matrix.head_cons, mul_im,
    conj_re, conj_im]
  ring
```

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean:452]: The suffices block was originally
```lean
    suffices 0 ≤ a * ‖x‖ ^ 2 ∧ b * ‖x‖ ^ 2 = 0 → SameRay ℝ x (a • x + b • J x) by
      rw [← (o.basisRightAngleRotation x hx).sum_repr y]
      simp only [Fin.sum_univ_succ, coe_basisRightAngleRotation, Matrix.cons_val_zero,
        Fin.succ_zero_eq_one', Fintype.univ_of_isEmpty, Finset.sum_empty, o.areaForm_apply_self,
        map_smul, map_add, map_zero, inner_smul_left, inner_smul_right, inner_add_left,
        inner_add_right, inner_zero_right, LinearMap.add_apply, Matrix.cons_val_one,
        Matrix.head_cons, Algebra.id.smul_eq_mul, o.areaForm_rightAngleRotation_right,
        MulZeroClass.mul_zero, add_zero, zero_add, neg_zero, o.inner_rightAngleRotation_right,
        o.areaForm_apply_self, real_inner_self_eq_norm_sq]
      exact this
```
After putting the 2220 hack on top of the file (and inserting a coercion – the 0 in `0 ≤ a` should be a real) the original proof works after all. In fact the simp line can be shortened:
```
    suffices ↑0 ≤ a * ‖x‖ ^ 2 ∧ b * ‖x‖ ^ 2 = 0 → SameRay ℝ x (a • x + b • J x) by
      rw [← (o.basisRightAngleRotation x hx).sum_repr y]
      simp only [Fin.sum_univ_succ, coe_basisRightAngleRotation, Matrix.cons_val_zero,
        Fin.succ_zero_eq_one', Fintype.univ_of_isEmpty, Finset.sum_empty, areaForm_apply_self,
        map_smul, map_add, real_inner_smul_right, inner_add_right, Matrix.cons_val_one,
        Matrix.head_cons, Algebra.id.smul_eq_mul, areaForm_rightAngleRotation_right,
        mul_zero, add_zero, zero_add, neg_zero, inner_rightAngleRotation_right,
        real_inner_self_eq_norm_sq]
      exact this
```

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean]: The alternative (as I have now implemented) is to name the `[Fact (finrank ℝ F = 2)]` arguments of the relevant declarations – I used `hF` – and then put `(hF := _)`.

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean [hunk 6]
```diff
@@ -0,0 +1,670 @@
...
+
+noncomputable section
+
+open scoped RealInnerProductSpace ComplexConjugate
+
+open FiniteDimensional
+
+local macro_rules | `($x ^ $y)   => `(HPow.hPow $x $y) -- Porting note: See issue #2220
+
+lemma FiniteDimensional.finiteDimensional_of_fact_finrank_eq_two {K V : Type _} [DivisionRing K]
```
Comment (ChrisHughes24) [inline Mathlib/Analysis/InnerProductSpace/TwoDim.lean:82]: Why is this needed?

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 5 above)
Comment (semorrison) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean]: Please put the explanation in the porting note if possible!

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean:82]: Lean complained that it can't use `fact_finite_dimensional_of_finrank_eq_succ` as a local instance.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean:82]: @ChrisHughes24 while it's not strictly needed, without that line I needed to add a few more cast-related tactics in some places to get the whole file compiling.

File: Mathlib/Analysis/InnerProductSpace/TwoDim.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/InnerProductSpace/TwoDim.lean]: @semorrison Done.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
